US06809102B2
5-Cyano-4-methyl-6-(3-nitrophenyl)-2-oxo-3,6-dihydro-2H-pyrimidine-1-carboxylic acid 4-nitrophenyl ester.
To a suspension of 6-Methyl-4-(3-nitrophenyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile (0.43 g, 1.7 mmol, prepared by the method described in Example 26, Step 1, in 77% yield) in THF (15 mL) at −78° C. was added LDA (1.25 mL, 2.5 mmol, 2.0 M in hexanes). The resulting mixture was stirred at −78° C. for 15 min, warmed to −25° C. for 15 min, recooled to −78° C. and 4-nitrophenyl chloroformate (0.50 g, 2.5 mmol) was added in one portion. The reaction mixture was stirred at −78° C. for 15 min, gradually warmed to room temperature, quenched with water and extracted with ethyl acetate. The organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using 50% to 70% ethyl acetate-hexane as eluant to give the title compound as a light yellow solid (0.38 g, 53%).

reactant | 6-Methyl-4-(3-nitrophenyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile | CC1=C(C(NC(N1)=O)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C12H10N4O3
reactant | LDA | 2.5 mmol, 2.0 M, 1.25 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-nitrophenyl chloroformate | 2.5 mmol, 0.50 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-Cyano-4-methyl-6-(3-nitrophenyl)-2-oxo-3,6-dihydro-2H-pyrimidine-1-carboxylic acid 4-nitrophenyl ester | 0.38 g, 53% | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C#N)C)=O | C19H13N5O7
